* *********************************
* This file : /Users/%USERNAME%/DD/LTS/dmodels/dmodels_analog.lib
* *********************************

.subckt gregaabox Y A B wp=2.0 lp=0.2 nf=1 mp=1


.parameter wval='wp*nf*1.0e-6'
.parameter lval='lp*1.0e-6'
.parameter mval='mp'


ra A  Y   {100 * 2e-6/wval}
rb A  Y   {100 * 2e-6/wval}

.ends


* ***************************************

